US05663410
In a first step, p-chlorobenzonitrile is reacted with 2,2,3,3-tetrafluoropropanol in the presence of bases, for example sodium hydride, with exchange of the p-chlorine atom to give 4-(2,2,3,3-tetrafluoropropoxy)benzonitrile. The second step is to reduce the 4-(2,2,3,3-tetrafluoropropoxy)benzonitrile by metal hydrides, for example diisobutylaluminum hydride, 4-(2,2,3,3-tetrafluoropropoxy)benzaldehyde being formed. The 4-(2,2,3,3-tetrafluoropropoxy)benzaldehyde is reacted stereoselectively with ethyl diethylphosphonoacetate in a third reaction step to give ethyl (E)-4-(2,2,3,3-tetrafluoropropoxy)cinnamate.

reactant | p-chlorobenzonitrile | ClC1=CC=C(C#N)C=C1 | C7H4ClN
reactant | 2,2,3,3-tetrafluoropropanol | FC(CO)(C(F)F)F | C3H4F4O
reactant | sodium hydride | [H-].[Na+]
product | 4-(2,2,3,3-tetrafluoropropoxy)benzonitrile | FC(COC1=CC=C(C#N)C=C1)(C(F)F)F | C10H7F4NO
